US06214856B1
a) (S)-N-(1-Hydroxymethyl-2-phenylethyl)-1-methyl-2-indolecarboxamide
To a stirred solution of 1-methyl-2-indolecarboxylic acid (100 mg, 0.57 mmol) in methylene chloride (1 mL) was added N-methylmorpholine (0.063 mL, 0.57 mmol) followed by (S)-(−)-2-amino-3-phenyl-1-propanol (86 mg, 0.57 mmol), 1-hydroxybenzotriazole hydrate (81 mg, 0.60 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (120 mg, 0.63 mmol). The resulting mixture was stirred at room temperature for 20 h. The reaction was diluted with methylene chloride and washed sequentially with 10% citric acid, saturated NaHCO3, water, and brine. The organic layer was dried over Na2SO4 and concentrated in vacuo to give a crude oil. Trituration of the crude oil with methanol and diethyl ether afforded the title compound (68%, 119.7 mg) as an off-white solid. MS (ES) m/e 309.4 [M+H]+.

reactant | 1-methyl-2-indolecarboxylic acid | 0.57 mmol, 100 mg | CN1C(=CC2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | N-methylmorpholine | 0.57 mmol, 0.063 mL | CN1CCOCC1 | C5H11NO
reactant | (S)-(−)-2-amino-3-phenyl-1-propanol | 0.57 mmol, 86 mg | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
reactant | 1-hydroxybenzotriazole hydrate | 0.60 mmol, 81 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.63 mmol, 120 mg | Cl.CN(CCCN=C=NCC)C
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | CO | CH4O
product | (S)-N-(1-Hydroxymethyl-2-phenylethyl)-1-methyl-2-indolecarboxamide | 119.7 mg, 68% | OC[C@H](CC1=CC=CC=C1)NC(=O)C=1N(C2=CC=CC=C2C1)C | C19H20N2O2
